US06846833B2
Step a: Ethyl 4-[1,8]naphthyridin-2-ylbutanoate
A solution consisting of 2-aminonicotinaldehyde (0.7 g; 5.8 mmol), ethyl 5-oxohexanoate (1.83 g; 11.6 mmol; 1.85 ml), L-proline (0.166 g; 1.45 mmol) and 50 ml of EtOH is heated at 90° C., with stirring, for 6 hours. The reaction mixture is then concentrated and the residue is purified by chromatography on silica gel (eluant: EtOAc) to yield the title product in the form of a beige solid.

reactant | 2-aminonicotinaldehyde | 5.8 mmol, 0.7 g | NC1=C(C=O)C=CC=N1 | C6H6N2O
reactant | ethyl 5-oxohexanoate | 11.6 mmol, 1.85 ml, 1.83 g | O=C(CCCC(=O)OCC)C | C8H14O3
reactant | L-proline | 1.45 mmol, 0.166 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | EtOH | 50 ml | CCO | C2H6O
product | Ethyl 4-[1,8]naphthyridin-2-ylbutanoate | N1=C(C=CC2=CC=CN=C12)CCCC(=O)OCC | C14H16N2O2
